US07838674B2
Intermediate J: 1-Methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperazine
2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (300 mg; 1.01 mmol), N-methylpiperazine (132 mg; 1.32 mmol) and K2CO3 (168 mg; 1.22 mmol) in DMF (4 ml) are heated to 80° C. for 45 minutes. The reaction mixture was diluted with MeOH, filtered and purified via chromatography (SiO2; CH2Cl2/MeOH/NH3conc 95:5:0.5) to yield the title compound as yellow resin. 1H-NMR (400 MHz; DMSO-d6): 7.63 (d, 2H); 7.33 (d, 2H); 3.47 (s, 1H); 2.34 (bs, 8H); 2.16 (s, 3H); 1.30 (s, 12H). MS (m/z) ES+: 317 (MH+).

reactant | 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.01 mmol, 300 mg | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | N-methylpiperazine | 1.32 mmol, 132 mg | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 1.22 mmol, 168 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-Methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperazine | CN1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H29BN2O2
